US06140439
In a 250--mL RB flask fitted with pressure equalizing addition funnel, thermometer, magnetic stirrer, and N2 inlet was placed 0.75 g (3.0 mmol) of 4,4'-difluorobenzil, 13.8 mL (80 mmol) of 2,6-diisopropylaniline (DIPA), and 100 mL dry benzene. In the addition funnel was placed 50 mL of dry benzene and 210 mL (3.5 g; 18 mmol) of titanium tetrachloride. The reaction flask was cooled to 2° C. with ice and the TiCl4 solution was added dropwise over 45 min, keeping the reaction temperature below 5° C. The ice bath was removed after addition was complete and the mixture was stirred at RT for 72 h. The reaction mixture was partitioned between water and ethyl ether, and the ether phase was rotovapped and the concentrated oil was washed with 800 mL 1N HCl to remove the excess diisopropylaniline. The mixture was extracted with 100 mL of ether, and the ether layer was washed with water and rotovapped. Addition of 15 mL hexane plus 30 mL of methanol to the concentrate resulted in the formation of fine yellow crystals which were filtered, methanol-washed, and dried under suction to yield 0.4 g of (2,6--i--PrPh)2DAB(4--F--Ph)2, mp: 155°-158° C.

reactant | 4,4'-difluorobenzil | 3.0 mmol, 0.75 g | FC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)F | C14H8F2O2
reactant | 2,6-diisopropylaniline | 80 mmol, 13.8 mL | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
catalyst | titanium tetrachloride | 18 mmol, 210 mL, 3.5 g | [Ti](Cl)(Cl)(Cl)Cl
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | PrPh | C(CC)C1=CC=CC=C1 | C9H12
